US04010152
Preparation of 2-t-butylazo-2-hydroperoxy-4-methylpentane
To a stirred solution of 1.56g (.02 moles) of sodium peroxide in 30 ml. of 75% aqueous methanol in a 50 ml. erlenmeyer flask immersed in a cold water bath, was added 4.1g (.02 moles) of 2-t-butylazo-2-chloro-4-methylpentane dropwise. After the addition was complete, the reaction mixture was stirred for an additional 45 minutes and poured into ice water containing 0.02 moles of HaSO4. The product was extracted with pentane and washed with cold solutions of ammonium sulfate and sodium bicarbonate, washed with water, dried over anhydrous sodium sulfate, filtered and the pentane stripped off under reduced pressure while the flask was immersed in an ice bath. The yield was 2.7 grams (67% of theory) and the product began to decompose when allowed to warm to room temperature. The infrared spectrum showed the characteristic hydroperoxide absorption at 3300-3400 cm-1.

reactant | sodium peroxide | .02 moles, 1.56g | [O-][O-].[Na+].[Na+]
reactant | 2-t-butylazo-2-chloro-4-methylpentane | .02 moles, 4.1g | C(C)(C)(C)N=NC(C)(CC(C)C)Cl | C10H21ClN2
solvent | methanol | CO | CH4O
product | 2-t-butylazo-2-hydroperoxy-4-methylpentane | C(C)(C)(C)N=NC(C)(CC(C)C)OO | C10H22N2O2
